US05210287
the method in which 2,5-dichloroaniline is diazotized and then reacted with thiourea in the presence of copper sulfate and subsequently hydrolyzed to 2,5-dichlorothiophenol, followed by reaction with monochloroacetic acid to yield 2,5-dichlorophenylthioglycolic acid (Ger. Offen. DE3715508),

reactant | 2,5-dichloroaniline | ClC1=C(N)C=C(C=C1)Cl | C6H5Cl2N
reactant | thiourea | NC(=S)N | CH4N2S
reactant | 2,5-dichlorothiophenol | ClC1=C(C=C(C=C1)Cl)S | C6H4Cl2S
reactant | monochloroacetic acid | ClCC(=O)O | C2H3ClO2
catalyst | copper sulfate | S(=O)(=O)([O-])[O-].[Cu+2]
product | 2,5-dichlorophenylthioglycolic acid | ClC1=C(C=C(C=C1)Cl)C(C(=O)O)S | C8H6Cl2O2S
